US05578604
A solution of 0.39 g of 3-amino-pyrrolidine in 4 ml of acetonitrile is treated with a solution of 0.75 g of 3-nitrobenzaldehyde in 4 ml of acetonitrile. After 1 hour at room temperature, the reaction mixture is treated with a solution of 1 g of DABCO and 0.93 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid in 4 ml of dimethylformamide. After 1 hour under reflux, the reaction mixture is cooled to 0° C. and the product is filtered off with suction and dried. 1.33 g of 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-(3-nitro-benzylideneamino)-pyrrolidin-1-yl)-4-oxo-5-vinyl-3-quinolinecarboxylic acid are obtained.

reactant | 3-amino-pyrrolidine | 0.39 g | NC1CNCC1 | C4H10N2
reactant | 3-nitrobenzaldehyde | 0.75 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | DABCO | 1 g | C1CN2CCN1CC2 | C6H12N2
reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.93 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C=C)=O)C(=O)O | C15H10F3NO3
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-(3-nitro-benzylideneamino)-pyrrolidin-1-yl)-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 1.33 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)N=CC1=CC(=CC=C1)[N+](=O)[O-])F)C=C)=O)C(=O)O | C26H22F2N4O5
